US08349824B2
The product was prepared in the same manner as described in example 3 using 5-(2-(2-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (75 mg, 191 μmol) and azetidine (51.5 μl, 765 μmol) as starting materials. The reaction affords 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid [2-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide (36.6 mg, 44.4%) off-white solid. mp.: 258.1° C., MS: m/z=432.3 (M+H+).

reactant | 5-(2-(2-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 191 μmol, 75 mg | COC1=C(C=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C19H16N6O4
reactant | azetidine | 765 μmol, 51.5 μl | N1CCC1 | C3H7N
product | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid [2-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide | 36.6 mg, 44.4% | COC1=C(C=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C)=N1 | C22H21N7O3
